US07772227B2
(rac)-4-Cyclopentyl-5,6-dihydro-1-(4-ethylpiperazin-1-ylcarbonyl)-4H-pyrrolo[3,2,1-ij]-quinoline hydrochloride salt
To a solution of 4-cyclopentyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid (342 mg, 1.27 mmol) in dichloromethane (20 ml) was added oxalyl chloride (218 μL, 3.18 mmol) and the reaction mixture stirred for 1 h. A further portion of oxalyl chloride (436 μL, 6.36 mmol) was then added and the reaction stirred overnight. Solvent and excess reagents were then removed in vacuo to leave a green solid. The green solid was dissolved in dichloromethane (20 ml) and N-ethylpiperazine (323 μL, 2.54 mmol) was added dropwise. The resulting reaction mixture was stirred for 1 h and then poured into a separating funnel. The organic layer was washed with saturated potassium bicarbonate solution (20 ml) and brine (20 ml), dried (MgSO4) and the solvent removed in vacuo to leave a brown oil. The oil was purified by flash chromatography eluting with 0-5% (v/v) methanol in dichloromethane to give the title compound (400 mg, 1.09 mmol). 1H NMR (400 MHz, CD3OD) δH 1.31-1.43 (4H, m), 1.45-1.79 (6H, m), 1.87-1.96 (1H, m), 2.05-2.24 (2H, m), 2.30-2.37 (1H, m), 2.90 (1H, dt, J 16.6, 3.9), 3.03-3.20 (3H, m), 3.26 (2H, q, J 7.5), 3.45-3.65 (4H, m), 4.16-4.23 (1H, m), 4.57 (2H, d, J 14.7), 6.99 (1H, d, J 7.1), 7.12 (1H, t, J 8.0), 7.48 (1H, d, J 8.0), 7.76 (1H, s); EsIMS: m/z=366.3 [M+H]+, 252.1.

reactant | 4-cyclopentyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid | 1.27 mmol, 342 mg | C1(CCCC1)C1N2C3=C(C=CC=C3CC1)C(=C2)C(=O)O | C17H19NO2
reactant | oxalyl chloride | 3.18 mmol, 218 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 6.36 mmol, 436 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-ethylpiperazine | 2.54 mmol, 323 μL | C(C)N1CCNCC1 | C6H14N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (rac)-4-Cyclopentyl-5,6-dihydro-1-(4-ethylpiperazin-1-ylcarbonyl)-4H-pyrrolo[3,2,1-ij]-quinoline hydrochloride salt | 1.09 mmol, 400 mg | Cl.C1(CCCC1)C1N2C3=C(C=CC=C3CC1)C(=C2)C(=O)N2CCN(CC2)CC | InChI=1S/C23H31N3O.ClH/c1-2-24-12-14-25(15-13-24)23(27)20-16-26-21(17-6-3-4-7-17)11-10-18-8-5-9-19(20)22(18)26;/h5,8-9,16-17,21H,2-4,6-7,10-15H2,1H3;1H
